US06265426B1
(RS)-Acetic acid 1-{3-[5-(4-methoxy-phenyl)-1H-[1,2,4]triazol-3-yl]-benzyl}-pyrrolidin-3-yl ester hydrochloride salt 1:1 (mixture of tautomers)
A solution of (RS)-1-{3-[5-(4-methoxy-phenyl)-1H-[1,2,4]triazol-3-yl]-benzyl}-pyrrolidin-3-ol hydrochloride (1:1) (mixture of tautomers) (50 mg, 0.13 mmol) in CH2Cl2 (5 ml) was treated with triethylamine (26 mg, 0.26 mmol 2 eq.) and stirred for 30 min. at r.t. Acetyl chloride (11 mg, 0.13 mmol, 1 eq.) was added and stirring was continued for 1.5 hrs. After removal of the solvent the residue was chromatographed over 20 g SiO2 (Merck 230-400 mesh) with CH2Cl2-MeOH (2M NH3) 96:4. The resulting product was dissolved in ethanol at r.t. and an excess 1.45 N HCl/EtOH solution (0.1 ml, 0.14 mmol) was added. After 30 min. stirring the solvent was evaporated and the residue dried under high vacuum at 40° C. overnight affording the title compound (53 mg, 0.12 mmol, 96% yield) as a colorless solid. MS: m/e=393.2 (M+H+)

reactant | (RS)-1-{3-[5-(4-methoxy-phenyl)-1H-[1,2,4]triazol-3-yl]-benzyl}-pyrrolidin-3-ol hydrochloride | 0.13 mmol, 50 mg | Cl.COC1=CC=C(C=C1)C1=NC(=NN1)C=1C=C(CN2CC(CC2)O)C=CC1
reactant | triethylamine | 0.26 mmol, 26 mg, 2 eq. | C(C)N(CC)CC | C6H15N
reactant | Acetyl chloride | 0.13 mmol, 11 mg, 1 eq. | C(C)(=O)Cl | C2H3ClO
reactant | HCl EtOH | 0.14 mmol, 1.45 N, 0.1 ml | Cl.CCO
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | (RS)-Acetic acid 1-{3-[5-(4-methoxy-phenyl)-1H-[1,2,4]triazol-3-yl]-benzyl}-pyrrolidin-3-yl ester hydrochloride salt | 0.12 mmol, 53 mg, 96% yield | Cl.COC1=CC=C(C=C1)C1=NC(=NN1)C=1C=C(CN2CC(CC2)OC(C)=O)C=CC1 | InChI=1S/C22H24N4O3.ClH/c1-15(27)29-20-10-11-26(14-20)13-16-4-3-5-18(12-16)22-23-21(24-25-22)17-6-8-19(28-2)9-7-17;/h3-9,12,20H,10-11,13-14H2,1-2H3,(H,23,24,25);1H
